US07960369B2
ethyl [(4-methoxyphenyl)thio]acetate
To an ice-cooled mixture of 4-methoxythiophenol (15 g, 0.11 mol), triethylamine (28 mL, 0.20 mol) and tetrahydrofuran (150 mL) was added ethyl bromoacetate (21 g, 0.13 mol), and the mixture was stirred overnight at room temperature. Ethanol (10 mL) was added, the solvent was evaporated under reduced pressure, and the residue was partitioned between ethyl acetate and water. The organic layer was concentrated under reduced pressure. The residue was purified by silica gel column chromatography (hexane/ethyl acetate=10:1) to give title compound (22 g, yield 92%). oil.

reactant | 4-methoxythiophenol | 0.11 mol, 15 g | COC1=CC=C(C=C1)S | C7H8OS
reactant | triethylamine | 0.20 mol, 28 mL | C(C)N(CC)CC | C6H15N
reactant | tetrahydrofuran | 150 mL | O1CCCC1 | C4H8O
reactant | ethyl bromoacetate | 0.13 mol, 21 g | BrCC(=O)OCC | C4H7BrO2
solvent | Ethanol | 10 mL | C(C)O | C2H6O
product | ethyl [(4-methoxyphenyl)thio]acetate | 22 g, yield 92% | COC1=CC=C(C=C1)SCC(=O)OCC | C11H14O3S
